US08729095B2
At room temperature, to a dichloromethane solution (15 ml) of tert-butyl 4-[(2-hydroxy-5-methylpyridin-3-yl)amino]piperidine-1-carboxylate (3.08 g) were added 2,6-lutidine (2.25 ml) and 2-bromoisobutyryl bromide (1.74 ml). After stirring at room temperature for 18 hours, N,N-dimethylformamide (15 ml) was added, and stirred at 70° C. for 1 hour. The reaction solution was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to afford tert-butyl 4-(3,3,7-trimethyl-2-oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazin-1-yl)piperidine-1-carboxylate (1.04 g).

reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
reactant | tert-butyl 4-[(2-hydroxy-5-methylpyridin-3-yl)amino]piperidine-1-carboxylate | 3.08 g | OC1=NC=C(C=C1NC1CCN(CC1)C(=O)OC(C)(C)C)C | C16H25N3O3
reactant | 2,6-lutidine | 2.25 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | 2-bromoisobutyryl bromide | 1.74 ml | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-(3,3,7-trimethyl-2-oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazin-1-yl)piperidine-1-carboxylate | 1.04 g | CC1(C(N(C2=C(O1)N=CC(=C2)C)C2CCN(CC2)C(=O)OC(C)(C)C)=O)C | C20H29N3O4
